US04036979
Preparation of 1-methyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea
A mixture of 1.89 grams (0.01 mole) of 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride in 20 ml. of dry benzene is stirred while 1.05 grams (0.01 mole) of triethylamine and 01.7 ml. (excess) of methyl isocyanate are added successively. Addition of the latter gives rise to an exotherm, and the mixture becomes very pasty. The mixture is kept at 45° C. for 1 hour, and after cooling to room temperature, the solid is collected, washed thoroughly with benzene and then with water. On drying, this gives 1.7 grams (81%) of product, melting point 183° C. to 186° C. Recrystallization from acetone gives 1.23 grams, melting point 187.5° C. to 189° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride | 0.01 mole, 1.89 grams | Cl.S1C2=C(C=C1)C(CCC2)N
reactant | triethylamine | 0.01 mole, 1.05 grams | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CNC(=O)NC1CCCC=2SC=CC21 | C10H14N2OS
